US05620974
2-(3Acetoxypyrrolidin-1-yl)-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound, m.p. 188°-189.5° C., was synthesized from 5,11-dihydro-11-ethyl-2-(3- hydroxypyrrolidin-1-yl)-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and acetic anhydride using procedures analogous to those described above. The product was chromatographed over silica gel with ethyl acetate/hexane, and was then crystallized from diisopropyl ether.

reactant | 5,11-dihydro-11-ethyl-2-(3- hydroxypyrrolidin-1-yl)-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=CC(=N2)N2CC(CC2)O)C | C18H21N5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(3Acetoxypyrrolidin-1-yl)-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)(=O)OC1CN(CC1)C=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC=C3)=O)C | C20H23N5O3
